US07553854B2
Step 4. Synthesis of cyclohexylmethyl-[6-(2-[1,3,4]oxadiazol-2-yl-pyridin-4-yloxy)-benzo-oxazol-2-yl]-amine
A solution of 4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridine-2-carbohydrazide (8 mg, 0.019 mmol, 1.0 eq) and 0.1 mL of 4 M hydrogen chloride in 1 mL trimethyl orthoformate was heated in the microwave at 120° C. for 1200 seconds. The crude product was purified by reverse phase prep HPLC to give the title compound. MH+=392.0

reactant | 4-(2-(cyclohexylmethylamino)benzo[d]oxazol-6-yloxy)pyridine-2-carbohydrazide | 0.019 mmol, 8 mg, 1.0 eq | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NN | C20H23N5O3
reactant | hydrogen chloride | 4 M, 0.1 mL | Cl | ClH
reactant | trimethyl orthoformate | 1 mL | C(OC)(OC)OC | C4H10O3
product | cyclohexylmethyl-[6-(2-[1,3,4]oxadiazol-2-yl-pyridin-4-yloxy)-benzo-oxazol-2-yl]-amine | C1(CCCCC1)CNC=1OC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C=2OC=NN2 | C21H21N5O3
